US06552232B2
A cross-aldol condensation reaction of propanal and 2-methyl-pentanal in the basic ionic liquid medium 1-butyl-2,3-dimethyl imidazolium hydroxide was run to form 2,4-dimethyl-2-heptenal. The basic ionic liquid 1-butyl-2,3-dimethyl imidazolium hydroxide (8.7 mmol, 1.50 g), 2-methyl-pentanal (1 79.7 mmol, 18.0 g), and nonane (7.8 mmol, 1.01 g) were heated to 100° C. After the addition of propanal (44.7 mmol, 2.6 g), the reaction mixture was refluxed at 87° C. for 3 hours. The resulting products were analyzed using GC and GC/MS techniques. The product isolation was carried out by vacuum distillation. Catalyst evaluation results are presented in Table 4.

reactant | propanal | C(CC)=O | C3H6O
reactant | 2-methyl-pentanal | CC(C=O)CCC | C6H12O
reactant | 1-butyl-2,3-dimethyl imidazolium hydroxide | [OH-].C(CCC)[N+]1=C(N(C=C1)C)C
product | 2,4-dimethyl-2-heptenal | CC(C=O)=CC(CCC)C | C9H16O
